US07582645B2
Trichloropyrimidine (11.83 g, 64.49 mmol) was added to a solution of 3-methoxyphenylboronic acid (9.8 g, 64.49 mmol) in a solvent mixture of ethanol (30 mL), toluene (30 mL) and 2M aqueous sodium bicarbonate (96.7 mL) at rt. The resulting mixture was degassed under vacuum for several min before the flask was purged with nitrogen. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II)dichloromethane adduct (2.4 g, 3.22 mmol) was added and the resulting mixture was heated for 3 h at 50° C. The cooled reaction mixture was filtered through a silica gel pad and the pad was washed with acetone. The filtrated was evaporated under reduced pressure. The crude material was purified by column chromatography eluting with a gradient of 0 to 45% ethyl acetate/hexanes to give 2,4-dichloro-6-(3-methoxy-phenyl)-pyrimidine as a white solid (14.4 g, 65.4%). MS ES 255 (M+H)+, calcd 255, RT=3.35 min.

reactant | Trichloropyrimidine | 64.49 mmol, 11.83 g | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | 3-methoxyphenylboronic acid | 64.49 mmol, 9.8 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | sodium bicarbonate | 2M, 96.7 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-6-(3-methoxy-phenyl)-pyrimidine | 14.4 g, 65.4% | ClC1=NC(=CC(=N1)Cl)C1=CC(=CC=C1)OC | C11H8Cl2N2O
